US04388243
(1) Synthesis of 1α,3β,24(R)-triethoxycarbonyloxycholest-5-ene
A ethyl chlorocarbonate (24.75 ml) was added dropwise to a solution of 1α,3β,24(R)-trihydroxycholest-5-ene (3.63 g), 4-dimethylaminopyridine (6.25 g) and methylenechloride (40 ml) with stirring at 0° C. After stirring for 27 hours at 60° C., the reaction mixture was poured into ice water and extracted with methylenechloride. The extracts were washed with 2 N hydrochloric acid, saturated sodium bicarbonate solution and saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure to give 4.98 g of residual product. The residue was recrystallized from methanol (10 ml) to afford 3.64 g of 1α,3β,24(R)-triethoxycarbonyoxycholest-5-ene as crystals.

reactant | ethyl chlorocarbonate | 24.75 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1α,3β,24(R)-trihydroxycholest-5-ene | 3.63 g | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)C)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H46O3
catalyst | 4-dimethylaminopyridine | 6.25 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylenechloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1α,3β,24(R)-triethoxycarbonyloxycholest-5-ene | 4.98 g | C(C)OC(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)C)OC(=O)OCC)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OCC | C36H58O9
